US05783522
3-Chloro-2-(4-chloro-3-hydroxycarbonylphenyl)-5-trifluoromethylpyridine (Table 1, Example I.102)
38.5 g of sodium perborate tetrahydrate were added in portions over the course of 30 minutes to a solution of 16.0 g of 3-chloro-2-(4-chloro-3-formylphenyl)-5-trifluoromethylpyridine in 100 ml of glacial acetic acid at 100° C., followed by stirring at 100° C. for 1.5 hours. The mixture was cooled and then poured into 400 ml of water. The product was extracted from the aqueous phase with 3×100 ml of tert-butyl methyl ether. The combined organic phases were dried over sodium sulfate and then concentrated. The residue was triturated with n-hexane. The material insoluble in hexane was removed and extracted by boiling twice with ether, the pyridine N-oxide byproduct remaining undissolved. The combined ether phases were dried over sodium sulfate and concentrated to result in 13.7 g (81%) of colorless crystals; melting point: 149°-151° C.

reactant | sodium perborate tetrahydrate | 38.5 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | 3-chloro-2-(4-chloro-3-formylphenyl)-5-trifluoromethylpyridine | 16.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C=O | C13H6Cl2F3NO
reactant | water | 400 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro-2-(4-chloro-3-hydroxycarbonylphenyl)-5-trifluoromethylpyridine | 13.7 g, 81% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(=O)O | C13H6Cl2F3NO2
